US08048909B2
4-Amino-2-fluorobenzonitrile
To a solution of 2-fluoro-4-nitrobenzonitrile (2.51 g) in methanol (125 mL) was added 10% palladium carbon (50% containing water, 237 mg), and the mixture was stirred under a hydrogen atmosphere for 3 hr. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as a pale-yellow solid (yield 1.43 g, 70%).

reactant | 2-fluoro-4-nitrobenzonitrile | 2.51 g | FC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3FN2O2
solvent | methanol | 125 mL | CO | CH4O
catalyst | palladium carbon | 237 mg | [C].[Pd]
product | 4-Amino-2-fluorobenzonitrile | yield 1.43 g, 70% | NC1=CC(=C(C#N)C=C1)F | C7H5FN2
